US07572809B2
Similar procedure as described in example 273 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-bromo-phenylamine to give N1-(4-bromo-phenyl)-6-methoxy-N3-(5-methyl-1H-pyrazol-3-yl)-isoquinoline-1,3-diamine. LC-MS m/e 424(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | 4-bromo-phenylamine | BrC1=CC=C(C=C1)N | C6H6BrN
product | N1-(4-bromo-phenyl)-6-methoxy-N3-(5-methyl-1H-pyrazol-3-yl)-isoquinoline-1,3-diamine | BrC1=CC=C(C=C1)NC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C20H18BrN5O
